US04028376
To a solution of methyl 3-t-butyl-5-isoxazolylcarbamate (2.56 g) in methylene chloride (13 ml), sulfuryl chloride (1.81 g) is added dropwise, and the resultant mixture is refluxed for 2 hours. The reaction mixture is evaporated to remove the solvent, whereby methyl 3-t-butyl-4-chloro-5-isoxazolylcarbamate (3.08 g) is obtained as an oil. IR: 1748, 1642 cm-1 (CC14).

reactant | methyl 3-t-butyl-5-isoxazolylcarbamate | 2.56 g | C(C)(C)(C)C1=NOC(=C1)NC(OC)=O | C9H14N2O3
reactant | sulfuryl chloride | 1.81 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-t-butyl-4-chloro-5-isoxazolylcarbamate | 3.08 g | C(C)(C)(C)C1=NOC(=C1Cl)NC(OC)=O | C9H13ClN2O3
